US07772256B2
5-(5-Methoxy-benzofuran-2-yl)-pyridine-2-carboxylic acid amide
5-methoxybenzofuran boronic acid (1.2 mmol), 5-bromopyridine-2-carboxamide (1.0 mmol), Pd(PPh3)2Cl2 (0.024 mmol) and NEt3 (317 μL) were mixed in EtOH (10 mL) in a 20 mL microwave vial. The mixture was stirred at 140° C. for 10 min in a microwave reactor, filtered, and the precipitate was washed with water and EtOAc and dried under vacuum to afford the title compound (75 mg). 1H NMR δ ppm 9.10 (d, 1 H) 8.34 (dd, 1 H) 8.21 (br. s., 1 H) 8.00 (d, 1 H) 7.52-7.72 (m, 3 H) 7.25 (d, 1 H) 7.00 (dd, 1 H) 3.82 (s, 3H); MS m/z 269 (M+H).

reactant | 5-methoxybenzofuran boronic acid | 1.2 mmol | COC=1C=CC2=C(C=C(O2)B(O)O)C1 | C9H9BO4
reactant | 5-bromopyridine-2-carboxamide | 1.0 mmol | BrC=1C=CC(=NC1)C(=O)N | C6H5BrN2O
reactant | NEt3 | 317 μL | CCN(CC)CC | C6H15N
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd(PPh3)2Cl2 | 0.024 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(5-Methoxy-benzofuran-2-yl)-pyridine-2-carboxylic acid amide | 75 mg | COC=1C=CC2=C(C=C(O2)C=2C=CC(=NC2)C(=O)N)C1 | C15H12N2O3
